* C:\Users\drsur\Documents\LTspiceXVII\10bitp.asc
XX1 d0 d1 d2 d3 d4 d5 d6 d7 d8 d9 out N002 0 10bit
R1 N001 N002 1.6113k
V1 N001 0 3.3
V2 d0 0 0
V3 d1 0 0
V4 d2 0 0
V5 d3 0 0
V6 d4 0 0
V7 d5 0 0
V8 d6 0 0
V9 d7 0 0
V10 d8 0 0
V11 d9 0 0

* block symbol definitions
.subckt 10bit d0 d1 d2 d3 d4 d5 d6 d7 d8 d9 o10 ir10 or10
XX1 d0 d1 d2 d3 d4 d5 d6 d7 d8 ir10 N002 N001 9bit
XX2 d0 d1 d2 d3 d4 d5 d6 d7 d8 N003 or10 N004 9bit
R1 N002 N003 5k
XX3 N001 o10 d9 N004 switch
.ends 10bit

.subckt 9bit d0 d1 d2 d3 d4 d5 d6 d7 d8 ir9 or9 o9
XX1 d0 d1 d2 d3 d4 d5 d6 d7 ir9 N002 N001 8bit
XX2 d0 d1 d2 d3 d4 d5 d6 d7 N003 or9 N004 8bit
XX3 N001 o9 d8 N004 switch
R1 N002 N003 5k
.ends 9bit

.subckt switch in1 Vout digin in2
M1 N001 digin N002 N001 PMOS l=180n w=900n
M2 in1 N002 Vout in1 PMOS l=180n w=900n
M3 in1 digin Vout Vout NMOS l=180n w=360n
M4 N002 digin 0 0 NMOS l=180n w=360n
M5 Vout N002 in2 in2 NMOS l=180n w=360n
M6 Vout digin in2 Vout PMOS l=180n w=900n
V1 N001 0 3.3
.model n_mos NMOS (LEVEL=8 VERSION=3.2 TNOM=27 TOX=4.1E-9 XJ=1E-7 NCH=2.3549E17 VTH0=0.3823463 K1=0.5810697
*+            K2=4.774618E-3 K3=0.0431669 K3B=1.1498346 W0=1E-7 NLX=1.910552E-7 DVT0W=0 DVT1W=0 DVT2W=0
*+            DVT0=1.2894824 DVT1=0.3622063 DVT2=0.0713729 U0=280.633249 UA=-1.208537E-9 UB=2.158625E-18
*+            UC=5.342807E-11 VSAT=9.366802E4 A0=1.7593146 AGS=0.3939741 B0=-6.413949E-9 B1=-1E-7 KETA=-5.180424E-4
*+            A1=0 A2=1 RDSW=105.5517558 PRWG=0.5 PRWB=-0.1998871 WR=1 WINT=7.904732E-10 LINT=1.571424E-8 XL=0
*+            XW=-1E-8 DWG=1.297221E-9 DWB=1.479041E-9 VOFF=-0.0955434 NFACTOR=2.4358891 CIT=0 CDSC=2.4E-4 CDSCD=0
*+            CDSCB=0 ETA0=3.104851E-3 ETAB=-2.512384E-5 DSUB=0.0167075 PCLM=0.8073191 PDIBLC1=0.1666161 PDIBLC2=3.112892E-3
*+            PDIBLCB=-0.1 DROUT=0.7875618 PSCBE1=8E10 PSCBE2=9.213635E-10 PVAG=3.85243E-3 DELTA=0.01 RSH=6.7 MOBMOD=1
*+            PRT=0 UTE=-1.5 KT1=-0.11 KT1L=0 KT2=0.022 UA1=4.31E-9 UB1=-7.61E-18 UC1=-5.6E-11 AT=3.3E4 WL=0 WLN=1
*+            WW=0 WWN=1 WWL=0 LL=0 LLN=1 LW=0 LWN=1 LWL=0 CAPMOD=2 XPART=0.5 CGDO=7.08E-10 CGSO=7.08E-10 CGBO=1E-12
*+            CJ=9.68858E-4 PB=0.8 MJ=0.3864502 CJSW=2.512138E-10 PBSW=0.809286 MJSW=0.1060414 CJSWG=3.3E-10 PBSWG=0.809286
*+            MJSWG=0.1060414 CF=0 PVTH0=-1.192722E-3 PRDSW=-5 PK2=6.450505E-5 WKETA=-4.27294E-4 LKETA=-0.0104078
*+            PU0=6.3268729 PUA=2.226552E-11 PUB=0 PVSAT=969.1480157 PETA0=1E-4 PKETA=-1.049509E-3)
.model p_mos PMOS (LEVEL=8 VERSION=3.2 TNOM=27 TOX=4.1E-9 XJ=1E-7 NCH=4.1589E17 VTH0=-0.3938813 K1=0.5479015
*+            K2=0.0360586 K3=0.0993095 K3B=5.7086622 W0=1E-6 NLX=1.313191E-7 DVT0W=0 DVT1W=0 DVT2W=0 DVT0=0.4911363
*+            DVT1=0.2227356 DVT2=0.1 U0=115.6852975 UA=1.505832E-9 UB=1E-21 UC=-1E-10 VSAT=1.329694E5 A0=1.7590478
*+            AGS=0.3641621 B0=3.427126E-7 B1=1.062928E-6 KETA=0.0134667 A1=0.6859506 A2=0.3506788 RDSW=168.5705677
*+            PRWG=0.5 PRWB=-0.4987371 WR=1 WINT=0 LINT=3.028832E-8 XL=0 XW=-1E-8 DWG=-2.349633E-8 DWB=-7.152486E-9
*+            VOFF=-0.0994037 NFACTOR=1.9424315 CIT=0 CDSC=2.4E-4 CDSCD=0 CDSCB=0 ETA0=0.0608072 ETAB=-0.0426148
*+            DSUB=0.7343015 PCLM=3.2579974 PDIBLC1=7.229527E-6 PDIBLC2=0.025389 PDIBLCB=-1E-3 DROUT=0 PSCBE1=1.454878E10
*+            PSCBE2=4.202027E-9 PVAG=15 DELTA=0.01 RSH=7.8 MOBMOD=1 PRT=0 UTE=-1.5 KT1=-0.11 KT1L=0 KT2=0.022 UA1=4.31E-9
*+            UB1=-7.61E-18 UC1=-5.6E-11 AT=3.3E4 WL=0 WLN=1 WW=0 WWN=1 WWL=0 LL=0 LLN=1 LW=0 LWN=1 LWL=0 CAPMOD=2 XPART=0.5
*+            CGDO=6.32E-10 CGSO=6.32E-10 CGBO=1E-12 CJ=1.172138E-3 PB=0.8421173 MJ=0.4109788 CJSW=2.242609E-10 PBSW=0.8            +            MJSW=0.3752089 CJSWG=4.22E-10 PBSWG=0.8 MJSWG=0.3752089 CF=0 PVTH0=1.888482E-3 PRDSW=11.5315407 PK2=1.559399E-3
*+            WKETA=0.0319301 LKETA=2.955547E-3 PU0=-1.1105313 PUA=-4.62102E-11 PUB=1E-21 PVSAT=50 PETA0=1E-4 PKETA=-4.346368E-3)
.ends switch

.subckt 8bit d0 d1 d2 d3 d4 d5 d6 d7 ir8 or8 o8
XX1 ir8 N002 N001 d0 d1 d2 d3 d4 d5 d6 7bit
XX2 N003 or8 N004 d0 d1 d2 d3 d4 d5 d6 7bit
XX3 N001 o8 d7 N004 switch
R1 N002 N003 5k
.ends 8bit

.subckt 7bit ir7 or7 o7 d0 d1 d2 d3 d4 d5 d6
XX1 d0 d1 d2 d3 d4 d5 ir7 N002 N001 6bit
XX2 d0 d1 d2 d3 d4 d5 N003 or7 N004 6bit
XX3 N001 o7 d6 N004 switch
R1 N002 N003 5k
.ends 7bit

.subckt 6bit d0 d1 d2 d3 d4 d5 ir6 or6 o6
XX1 d0 d1 d2 d3 d4 ir6 N002 N001 5bit
XX2 d0 d1 d2 d3 d4 N003 or6 N004 5bit
XX3 N001 o6 d5 N004 switch
R1 N002 N003 5k
.ends 6bit

.subckt 5bit d0 d1 d2 d3 d4 ir5 or5 o5
XX1 d0 d1 d2 d3 ir5 N002 N001 4bit
XX2 d0 d1 d2 d3 N003 or5 N004 4bit
R1 N002 N003 5k
XX3 N001 o5 d4 N004 switch
.ends 5bit

.subckt 4bit d0 d1 d2 d3 ir4 or4 o4
XX1 N001 ir4 N002 d0 d1 d2 3bit
XX2 N004 N003 or4 d0 d1 d2 3bit
XX3 N001 o4 d3 N004 switch
R1 N002 N003 5k
.ends 4bit

.subckt 3bit o3 ir3 or3 d0 d1 d2
XX1 N001 ir3 N002 d0 d1 2bit
XX2 N004 N003 or3 d0 d1 2bit
XX3 N001 o3 d2 N004 switch
R1 N002 N003 5k
.ends 3bit

.subckt 2bit out2 inpin opin d0 d1
XX1 inpin N001 d0 N002 switch
XX2 N003 N004 d0 N005 switch
XX3 N001 out2 d1 N004 switch
R1 inpin N002 10k
R2 N002 N003 10k
R3 N003 N005 10k
R4 N005 opin 5k
.ends 2bit

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\drsur\Documents\LTspiceXVII\lib\cmp\standard.mos
* 10bit
.tran 100ms
* Control Statements
.control
run
plot v(out)
*.backanno
.endc
.end

